US06348474B1
2-Chloro-4-((2-(N-methyl-N-(2-pyridinyl)amino)ethyl)oxy)benzyl alcohol
Sodium borohydride (58 mg) was added to a solution of 2-chloro-4-((2-(N-methyl-N-(2-pyridinyl)amino)ethyl)oxy)benzaldehyde (438 mg) in ethanol (3 ml) at room temperature and the mixture was stirred for 2 hr. 1N Hydrochloric acid (1.5 ml) was dropwise added to the reaction mixture to decompose the redundant reagent and the whole mixture was diluted with ethyl acetate. A saturated aqueous solution of sodium hydrogencarbonate was added to neutralize the mixture and the resulting product was extracted twice with ethyl acetate. The organic layers were combined, washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated to give the objective compound (437 mg) as a colorless oil.

reactant | Sodium borohydride | 58 mg | [BH4-].[Na+]
reactant | 2-chloro-4-((2-(N-methyl-N-(2-pyridinyl)amino)ethyl)oxy)benzaldehyde | 438 mg | ClC1=C(C=O)C=CC(=C1)OCCN(C1=NC=CC=C1)C | C15H15ClN2O2
reactant | Hydrochloric acid | 1N, 1.5 ml | Cl | ClH
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | 3 ml | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Chloro-4-((2-(N-methyl-N-(2-pyridinyl)amino)ethyl)oxy)benzyl alcohol | 437 mg | ClC1=C(CO)C=CC(=C1)OCCN(C1=NC=CC=C1)C | C15H17ClN2O2
